US09233956B2
Step H: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluoroaniline (900 mg, 2.196 mmol) and 2,5-difluorobenzenesulfonyl chloride (0.355 mL, 2.64 mmol) the title compound of Step H was obtained as a light yellow solid (774 mg, 60% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (d, J=5.5 Hz, 1H), 7.48-7.57 (m, 4H), 7.29 (t, J=8.8 Hz, 1H), 6.57 (d, J=5.5 Hz, 1H), 3.70-3.74 (m, 4H), 3.52-3.55 (m, 4H). MS (ESI): 585 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluoroaniline | 2.196 mmol, 900 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1F)F | C17H14ClF2N5OS
reactant | 2,5-difluorobenzenesulfonyl chloride | 2.64 mmol, 0.355 mL | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H16ClF4N5O3S2
